US07572820B2
C. 2-Methyl-4-(trifluoromethyl)-1-(2-{[5-(trifluoromethyl)-2-pyridinyl]oxy}ethyl)-1H-indole-5-carbonitrile
A solution of 1-(2-hydroxyethyl)-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.130 g, 0.49 mmol) in CH2Cl2 (3 mL) at 0° C. was treated with DBAD (0.302 g, 1.31 mmol), PPh3 (0.343 g, 1.31 mmol) and 5-(trifluoromethyl)-2(1H)-pyridinone (0.87 g, 0.53 mmol). The mixture was allowed to slowly warm to rt and then stirred for 14 h. Concentration was followed by column chromatography (SiO2, hexanes/EtOAc) to afford the title compound (0.160 g): 1H NMR (400 MHz, CDCl3) δ 8.36 (s, 1H), 7.75 (dd, J=8.8 and 2.5 Hz, 1H), 7.56 (d, J=8.4 Hz, 1H), 7.50 (d, J=8.4 Hz, 1H), 6.71 (d, J=8.8 Hz, 1H), 6.57 (s, 1H), 4.67 (t, J=5.6 Hz, 2H), 4.54 (t, J=5.6 Hz, 2H), 2.54 (s, 3H); MS (ES) m/z 414 (M+1).

reactant | 1-(2-hydroxyethyl)-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.49 mmol, 0.130 g | OCCN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C | C13H11F3N2O
reactant | DBAD | 1.31 mmol, 0.302 g | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | PPh3 | 1.31 mmol, 0.343 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 5-(trifluoromethyl)-2(1H)-pyridinone | 0.53 mmol, 0.87 g | FC(C=1C=CC(NC1)=O)(F)F | C6H4F3NO
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-4-(trifluoromethyl)-1-(2-{[5-(trifluoromethyl)-2-pyridinyl]oxy}ethyl)-1H-indole-5-carbonitrile | 0.160 g | CC=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CCOC1=NC=C(C=C1)C(F)(F)F | C19H13F6N3O
